US06538150B2
a) 3-Nitro-4-methoxycarbonylbenzylammonium chloride
700 ml of a 1 M BH3 solution in THF (0.7 mol) are metered in the course of one hour at 40-50° C. into a solution of 144 g (0.7 mol) of methyl 4-cyano-2-nitrobenzoate in 250 ml of THF and the mixture is subsequently refluxed for a further 1.5 hours. The reaction mixture is then treated with 600 ml of methanol saturated with hydrogen chloride gas, with ice-cooling, and refluxed for one hour. The mixture is concentrated completely under atmospheric pressure and reevaporated with 700 ml of methanol. The residue which remains is stirred with 500 ml of ethyl acetate and filtered, and the product is dried. This gives 115 g (67%) of 3-nitro-4-methoxycarbonylbenzyl-ammonium chloride of melting point 247-248° C.

reactant | methyl 4-cyano-2-nitrobenzoate | 0.7 mol, 144 g | C(#N)C1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-] | C9H6N2O4
reactant | methanol | 600 ml | CO | CH4O
reactant | hydrogen chloride | Cl | ClH
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | THF | 0.7 mol | C1CCOC1 | C4H8O
product | 3-Nitro-4-methoxycarbonylbenzylammonium chloride | [Cl-].[N+](=O)([O-])C=1C=C(C[NH3+])C=CC1C(=O)OC | InChI=1S/C9H10N2O4.ClH/c1-15-9(12)7-3-2-6(5-10)4-8(7)11(13)14;/h2-4H,5,10H2,1H3;1H
